US06780878B2
A. Ammonium 2-[1-(4-pyridyl)piperidin-4-ylmethyl]amino-pyridine-3-carboxylate
A mixture of 2-chloronicotinic acid (10.74 g, 67.5 mmol), 1-(4-pyridyl)piperidine-4-methylamine (8.60 g, 45.0 mmol), and potassium carbonate 15.5 g, 112.6 mmol) in dimethylformamide (90 mL) was heated at reflux. After 16 h, the mixture was diluted with methanol, filtered, and concentrated. The residue was dissolved in methanol, acidified with 1 N HCl in ether, heated at reflux for 0.25 h, cooled, and the solid removed by filtration. The filtrate was then treated with 2 M NH3 in methanol until slightly basic, triturated with THF and the resulting solid collected by filtration yielding 10.75 g of the title compound which was used without further purification.

reactant | 2-chloronicotinic acid | 67.5 mmol, 10.74 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 1-(4-pyridyl)piperidine-4-methylamine | 45.0 mmol, 8.60 g | N1=CC=C(C=C1)N1CCC(CC1)CN | C11H17N3
reactant | potassium carbonate | 112.6 mmol, 15.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | Ammonium 2-[1-(4-pyridyl)piperidin-4-ylmethyl]amino-pyridine-3-carboxylate | 10.75 g | N1=CC=C(C=C1)N1CCC(CC1)CNC1=NC=CC=C1C(=O)[O-].[NH4+] | InChI=1S/C17H20N4O2.H3N/c22-17(23)15-2-1-7-19-16(15)20-12-13-5-10-21(11-6-13)14-3-8-18-9-4-14;/h1-4,7-9,13H,5-6,10-12H2,(H,19,20)(H,22,23);1H3
